US04755511
Dimethylammonium chloride (2.34 g), formalin solution (1.58 g;37%) and concentrated hydrochloric acid (1 drop) was stirred at room temperature for 5 minutes then added to acetic anhydride (11.4 ml ). After about 20 minutes vigorous boiling occurred. 6-Acetamido-1-tetralone (3.6 g) was then added and the mixture was stirred at 100° C. for one hour. Evaporation of the reaction mixture under reduced pressure yielded an orange solid which was treated with acetone (15 ml ) for 3 minutes. The residue obtained on removal of acetone was dissolved in water (20 ml ) and treated with 2N sodium hydroxide to give pH 10. The precipitated oil was extracted with dichloromethane, dried (MgSO4) and evaporated to give crude 6-acetamido-2-dimethylaminomethyl-1-tetralone (5.0 g;M+ =260) which was taken up in acetone (30 ml ) and treated with iodomethane (12 ml ). The precipitate obtained was filtered off and washed with ether to give 6-acetamido-1-oxo-1,2,3,4-tetrahydro-2-naphthyl-trimethyl ammonium iodide (4.25 g; m.p. 168°-70°).

reactant | Dimethylammonium chloride | 2.34 g | [Cl-].C[NH2+]C
reactant | formalin | 1.58 g | C=O | CH2O
reactant | acetic anhydride | 11.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-Acetamido-1-tetralone | 3.6 g | C(C)(=O)NC=1C=C2CCCC(C2=CC1)=O | C12H13NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 6-acetamido-2-dimethylaminomethyl-1-tetralone | 5.0 g | C(C)(=O)NC=1C=C2CCC(C(C2=CC1)=O)CN(C)C | C15H20N2O2
